US09108952B2
N-Cyclopropyl-2-(pyridine-3-carbothioamido)acetamide (1.00 g, 4.25 mmol) was dissolved in acetonitrile (5 mL) in a dry flask and phosphoryloxy trichloride (3.26 g, 21.25 mmol) was added, dropwise. The mixture was warmed to 100° C. and stirred for 1 hour. The mixture was cooled to room temperature and the yellow solid filtered under vacuum. This solid was washed with acetonitrile and dried under vacuum to give 0.36 g of N-cyclopropyl-2-(pyridin-3-yl)thiazol-5-amine HCl salt (LCMS and 1H-NMR indicated 100% purity). The filtrate was diluted with ethyl acetate and carefully basified with saturated aqueous NaHCO3. The organic phase was separated and washed with brine, dried over MgSO4, and concentrated in vacuo to give N-cyclopropyl-2-(pyridin-3-yl)thiazol-5-amine as a brown oil (0.45 g, 3.47 mmol, 82%): 1H NMR (400 MHz, CDCl3) δ 9.10 (d, J=2.1 Hz, 1H), 8.68 (dd, J=5.5, 1.2 Hz, 1H), 8.63-8.58 (m, 1H), 7.89 (dd, J=8.1, 5.4 Hz, 1H), 7.07 (d, J=7.8, 1H), 2.57 (dt, J=10.0, 3.3 Hz, 1H), 0.85-0.68 (m, 2H), 0.57-0.45 (m, 2H); ESIMS (m/z) 216 ([M−H]−).

reactant | N-Cyclopropyl-2-(pyridine-3-carbothioamido)acetamide | 4.25 mmol, 1.00 g | C1(CC1)NC(CNC(=S)C=1C=NC=CC1)=O | C11H13N3OS
reactant | phosphoryloxy trichloride | 21.25 mmol, 3.26 g | P(=O)(OCl)(Cl)Cl | Cl3O2P
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | N-cyclopropyl-2-(pyridin-3-yl)thiazol-5-amine HCl salt | 0.36 g, 100% | Cl.C1(CC1)NC1=CN=C(S1)C=1C=NC=CC1 | InChI=1S/C11H11N3S.ClH/c1-2-8(6-12-5-1)11-13-7-10(15-11)14-9-3-4-9;/h1-2,5-7,9,14H,3-4H2;1H
